US06740662B1
An NADPH production system was prepared by mixing 42 mg of NADP, 5 ml of 100 mM glucose-6-phosphatase (G6P) and 5 ml of 100 mM MgCl2, and adding 57 μl of G6P dehydrogenase (about 1750 U/5 mg/ml) to the mixture. This was heated at 37° C. for 5 minutes and then ice-cooled until its use.

reactant | NADP | 42 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | G6P | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
reactant | MgCl2 | 100 mM, 5 ml | [Mg+2].[Cl-].[Cl-]
reactant | G6P | 57 μl | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
